US08168793B2
To a solution of 4-benzyloxy-3-methoxy-bromobenzene (2.0 g, 6.82 mmol) in tetrahydrofuran (50 mL) at −78° C. under argon was added 2 N butyllithium solution in hexanes (3.75 mL, 7.5 mmol) dropwise. The resulting mixture was allowed to stir for one hour, whereupon a solution of N-methoxy-N-methyl-2-trifluoromethyl-nicotinamide (1.76 g, 7.5 mmol) in tetrahydrofuran (20 mL) was added dropwise. The mixture was then allowed to reach room temperature over two hours, then poured onto cold 2 N aqueous hydrochloric acid (150 mL). The mixture was extracted with diethylether, and the combined organic layers were washed with water and brine, dried over anhydrous sodium sulphate and filtered. Evaporation of the solvent left a brown oil that was chromatographed over silica gel (petroleum ether/ethyl acetate, 2:1) to give (4-benzyloxy-3-methoxy-phenyl)-(2-trifluoromethyl-pyridin-3-yl)-methanone, 1.72 g (65%).

reactant | 4-benzyloxy-3-methoxy-bromobenzene | 6.82 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)OC | C14H13BrO2
reactant | butyllithium | 2 N | C(CCC)[Li]
reactant | N-methoxy-N-methyl-2-trifluoromethyl-nicotinamide | 7.5 mmol, 1.76 g | CON(C(C1=C(N=CC=C1)C(F)(F)F)=O)C | C9H9F3N2O2
reactant | hydrochloric acid | 2 N, 150 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4-benzyloxy-3-methoxy-phenyl)-(2-trifluoromethyl-pyridin-3-yl)-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)C=1C(=NC=CC1)C(F)(F)F)OC | C21H16F3NO3
